US04180522
In the manner given in Example 5, 3,4-dichloroaniline, 1-chloro-2-dimethylaminoethane hydrochloride and sodium carbonate are heated in toluene to give N,N-dimethyl-N'-(3,4-dichlorophenyl)ethylenediamine.

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 1-chloro-2-dimethylaminoethane hydrochloride | Cl.ClCCN(C)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-N'-(3,4-dichlorophenyl)ethylenediamine | CN(CCNC1=CC(=C(C=C1)Cl)Cl)C | C10H14Cl2N2
